US07807676B2
Tert-butyl-4-(2-phenyl-4,5-dihydro-1H-imidazol-1-yl)piperidine-1-carboxylate (0.1 g) and nickel peroxide was dissolved in dry benzene (20 ml) and refluxed at 100° C. for over-night. Reaction mixture was allowed to come to room temperature, filtered through a celite pad and washed with CHCl3 (2×20 ml). The organic solvent removed under reduced pressure gave an oil, which was purified by column chromatography using ethyl acetate. Evaporation of solvent gave pure product, tert-butyl 4-(2-phenyl-1H-imidazol-1-yl)piperidine-1-carboxylate.

reactant | Tert-butyl-4-(2-phenyl-4,5-dihydro-1H-imidazol-1-yl)piperidine-1-carboxylate | 0.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(=NCC1)C1=CC=CC=C1 | C19H27N3O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | nickel peroxide | [O-2].[O-2].[O-2].[Ni+3].[Ni+3]
product | tert-butyl 4-(2-phenyl-1H-imidazol-1-yl)piperidine-1-carboxylate | C1(=CC=CC=C1)C=1N(C=CN1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H25N3O2
